US03978044
4-cyclohexyl-1-morpholyl-cyclohex-1-ene
54 g of 4-cyclohexanone are dissolved in 90 ml benzene and 39 ml morpholine are added to the fresh solution, then a few crystals of p-toluene sulphonic acid. The whole is heated under reflux for 3 days while distilling off the water-benzene mixture. The remaining benzenic solution is evaporated to dryness under reduced pressure. The dry residue weighs 76.8 g and the raw product shows a melting point of 88°- 90°. The raw enamine is ground, then dried in vacuo to constant weight. 74.3 g of 4-cyclohexyl-1-morpholyl-cyclohex-1-ene are recovered and used without further purification for the next step of the synthesis. The yield amounts to 99 %.

reactant | 4-cyclohexanone | 54 g | C1CCC(CC1)=O | C6H10O
reactant | morpholine | 39 ml | N1CCOCC1 | C4H9NO
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
product | 4-cyclohexyl-1-morpholyl-cyclohex-1-ene | C1(CCCCC1)C1CC=C(CC1)N1CCOCC1 | C16H27NO
